### ISSUE TITLE
an equation lemma with `autoParam` arguments fails to `rewrite`

### ISSUE THREAD

**Issue by Komyyy** [leanprover/lean4#2243]
### Description

When we use an equation lemma of a definition with `autoParam` arguments in `rewrite` tactic, it fails.

### Steps to Reproduce

```lean
import Lean

open Lean Elab Tactic in
elab "exact_false" : tactic =>
  closeMainGoal (mkConst ``Bool.false)

def f (b : Bool := by exact_false) : Nat := bif b then 1 else 0

example : f false = bif false then 1 else 0 := by rw [f]
example : f true = bif true then 1 else 0 := by rw [f]
example (b : Bool) : f b = bif b then 1 else 0 := by rw [f]
```

**Expected behavior:**

Above all 3 examples succeed.

**Actual behavior:**

```lean
example : f false = bif false then 1 else 0 := by rw [f]
-- failed to rewrite using equation theorems for 'f'
example : f true = bif true then 1 else 0 := by rw [f]
-- failed to rewrite using equation theorems for 'f'
example (b : Bool) : f b = bif b then 1 else 0 := by rw [f]
-- failed to rewrite using equation theorems for 'f'
```

### Versions

Lean (version 4.0.0-nightly-2023-05-16, commit ebc32af2e606, Release)
Windows 11
